US08664401B2
Step B) (+/−)-2-[(trans-4-{[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran
The title compound (366 mg, 37.1%) was prepared from (+/−)-2-({trans-4-[(4-bromo-3-fluorophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran (0.88 g, 2.27 mmol) and bis(pinacolato)diborane (0.692 g, 2.73 mmol) by a procedure analogous to that described for (+/−)-2-[(cis-4-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran in Example 8, Step D. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.03-1.31 (m, 3H) 1.35 (s, 12H) 1.37-1.47 (m, 1H) 1.47-1.64 (m, 4H) 1.65-1.90 (m, 3H) 1.94 (dd, J=13.27, 2.93 Hz, 2H) 2.04-2.15 (m, 2H) 3.41-3.55 (m, 1H) 3.55-3.66 (m, 1H) 3.76 (d, J=6.44 Hz, 2H) 3.88-3.99 (m, 1H) 4.70-4.78 (m, 1H) 6.55 (dd, 1H) 6.67 (dd, J=8.39, 2.34 Hz, 1H) 7.64 (dd, J=8.29, 7.32 Hz, 1H)

reactant | (+/−)-2-({trans-4-[(4-bromo-3-fluorophenoxy)methyl]cyclohexyl}oxy)tetrahydro-2H-pyran | 2.27 mmol, 0.88 g | BrC1=C(C=C(OC[C@@H]2CC[C@H](CC2)OC2OCCCC2)C=C1)F | C18H24BrFO3
reactant | bis(pinacolato)diborane | 2.73 mmol, 0.692 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | (+/−)-2-[(cis-4-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran | CC1(OB(OC1(C)C)C1=CC=C(OC[C@H]2CC[C@H](CC2)OC2OCCCC2)C=C1)C | C24H37BO5
product | (+/−)-2-[(trans-4-{[3-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}cyclohexyl)oxy]tetrahydro-2H-pyran | 366 mg, 37.1% | FC=1C=C(OC[C@@H]2CC[C@H](CC2)OC2OCCCC2)C=CC1B1OC(C(O1)(C)C)(C)C | C24H36BFO5
